US07041685B2
5-(3-Bromo-furan-2-yl)-3-(5-chloro-pyridin-2-yl)-[1,2,4]-oxadiazole
The title compound was prepared from 3-bromo-furan-2-carboxylic acid (381.7 mg, 2.00 mmol) and 5-chloro-pyridine-2-amidoxime (343 mg, 2.00 mmol), similar to Example 70, and yielded 353 mg (54%) of white solid. 1H NMR (CDCl3): 8.81 (d, J=2.47 Hz, 1H), 8.22 (d, J=8.24 Hz, 1H), 7.90 (dd, J=8.25, 2.48 Hz, 1H), 7.71 (d, J=1.93 Hz, 1H), 6.79 (d, J=1.64 Hz, 1H).

reactant | 3-bromo-furan-2-carboxylic acid | 2.00 mmol, 381.7 mg | BrC1=C(OC=C1)C(=O)O | C5H3BrO3
reactant | 5-chloro-pyridine-2-amidoxime | 2.00 mmol, 343 mg | ClC=1C=CC(=NC1)C(N)=NO | C6H6ClN3O
product | 5-(3-Bromo-furan-2-yl)-3-(5-chloro-pyridin-2-yl)-[1,2,4]-oxadiazole | BrC1=C(OC=C1)C1=NC(=NO1)C1=NC=C(C=C1)Cl | C11H5BrClN3O2
